data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N+:21](CC)(C(C)C)C(C)C.CCC1=C(C=C2C(=C1)C(C3=C(C2=O)NC4=C3C=CC(=C4)C#N)(C)C)N5CCN(CC5)CC6(CCOCC6)[O-:10].CO>>[H:20][O:10]C1(CCOCC1)CN2CCN(CC2)C3=C(C=C4C(=C3)C(=O)C5=C(C4(C)C)C6=C(N5)C=C(C=C6)C#N)CC.CC[N:21](C(C)C)C(C)C.CO 10=20;20,21=21
[Li][O+:11](C1=CC(CC(C1)C)CC(=C)C)[Si-:10](C)(C)(C)C>>[Li][O:11]C1=CC(CC(C1)C)CC(=C)C.C[Si:10](C)(C)C 10,11=11
CC[C:20](=[O:21])[N+]1=CN(C=C1)C.CC[NH2:10].C1=CC(=CC=C1[N+](=O)[O-])[O-]>>CC[C:20]([NH2+:10]CC)([N+]1=CN(C=C1)C)[O-:21].C1=CC(=CC=C1[N+](=O)[O-])[O-] 10=20;20,21=21
[H:20][N+:21]1(CCN(CC1)C2=CC=C(C=C2)C(=O)C3=CC4=C(O3)C=C(C=C4)N(CC)CC)S(=O)(C5=CC=C(C=C5)C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCN(CC)C1=CC2=C(C=C1)C=C(O2)C(=O)C3=CC=C(C=C3)N4CC[N:21](CC4)S(=O)(C5=CC=C(C=C5)C)([O-])Cl 10=20;20,21=21
C[NH:10]C.[CH3:20][I:21]>>C[NH+:10](C)[CH3:20].[I-:21] 10=20;20,21=21
[H:20][O:21]O.C(=O)([O-:10])[O-]>>[H:20][O:10]C(=O)[O-].O[O-:21] 10=20;20,21=21
[H:20][N+:21]1=C(C(=NCC1)C2=CC=CC=C2)C3=CC=CC=C3.[OH-:10].CCO.C(CN)N.O>>C1CN=C(C(=[N:21]1)C2=CC=CC=C2)C3=CC=CC=C3.[H:20][OH:10].CCO.C(CN)N.O 10=20;20,21=21
[H:20][O+:21](CCCCCC1CO1)C(CCCCCO)CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1C(O1)CCCCC[O:21]C(CCCCCO)CO 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OC(=O)C2=CC=CC=C2)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.C1=CC=C(C=C1)C(=O)O[C:22]2=[C:21](C=CC=C2)Br 10=20;20,21=21,22
[Li:20]C(CC=C)CC=C.CN(C)CC[N:10](C)C>>[Li-:20](C(CC=C)CC=C)[N+:10](C)(C)CCN(C)C 10=20,
[H:20][C:21]1(C=CC=C[C+:22]1C=C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C=C[C:22]1=[C:21](C=CC=C1)S(=O)(=O)O 10=20;20,21=21,22
C[Si](C)(C)[CH2-:10].[CH2:20]=[O:21]>>C[Si](C)(C)[CH2:10][CH2:20][O-:21] 10=20;20,21=21
[H:20][C:21]1(C(=C([O+:23]=[C:22]1C2=CC(=C(C=C2)OC)OC)C3=CC(=C(C=C3)OC)OC)C)C.[OH2:10].CO.[Cl-]>>CC1=C([O:23][C:22](=[C:21]1C)C2=CC(=C(C=C2)OC)OC)C3=CC(=C(C=C3)OC)OC.[H:20][OH2+:10].CO.[Cl-] 10=20;22,23=23;20,21=21,22
CC(=O)CC[C:20](C#N)([O-:10])[Cl:21]>>CC(=O)CC[C:20](=[O:10])C#N.[Cl-:21] 10=20;20,21=21
C1=CC=C[CH:10]=[CH:11]1.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[CH+:11][CH:10](C=C1)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]C[C:10]2=[CH:11][C:12](=[C:13](C=C2)[O:14]C)C3CCCCC3.C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C[O+:14]=[C:13]1C=C[C:10]2(C[CH2:20]2)[CH:11]=[C:12]1C3CCCCC3.C(=O)O 10,11=10,20;20,21=21;12,13=11,12;14=13
C1CC(=O)[N:21](C1=O)[Br:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CC(C(=C)C(=O)OC)O.COC1=CC(=CC=C1)CO.C1=CC2=CC=CC3=C2C(=C1)C(=O)N(C3=O)CCCO.C1=CC(=CC=C1CO)[N+](=O)[O-].C1=C(OC(=C1)C=O)CO>>C1CC(=O)[N-:21]C1=O.C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[Br:20].CC(C(=C)C(=O)OC)O.COC1=CC(=CC=C1)CO.C1=CC2=CC=CC3=C2C(=C1)C(=O)N(C3=O)CCCO.C1=CC(=CC=C1CO)[N+](=O)[O-].C1=C(OC(=C1)C=O)CO 10=20;20,21=21
CC[CH:20]=[N+:21](C)C.[OH2:10]>>CC[CH:20]([N:21](C)C)[OH2+:10] 10=20;20,21=21
[H:20][O:21]CC1=COC=C1.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=COC=C1C[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
CC(=[O:10])CC[C:20](=[OH+:21])C1=C(C=CC=C1)Br.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>CC1=[O+:10][C:20](CC1)(C2=C(C=CC=C2)Br)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
C1=CN[CH:10]=[CH:11]1.O[S+:20](=O)=O>>C1=CN[CH:10]([CH+:11]1)[S:20](=O)(=O)O 10,11=10,20
CC(=O)N(CC[O-:10])CC12CCC34C5CCC(CC5C(CC3([C:20]1=[CH:21][C:22](=[O:23])C2=O)O4)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CC(C)(C)[Si](C)(C)F.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F>>CC(=O)N1CC[O:10][C:20]23[CH:21]=[C:22](C(=O)C2(C1)CCC45C3(O4)CC(C6C5CCC(C6)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)[O-:23].CC(C)(C)[Si](C)(C)F.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(C(C1=CC=CC=C1)O)OCC.[OH2:10].CCO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].CCOC(=[O:21])C(C1=CC=CC=C1)O.CCO.OS(=O)(=O)[O-] 10=20;20,21=21
C[OH+][K-:10][C:11]#N.CC1CN(C2C1CCC(C2=O)Br)S(=O)(=O)C3=CC=C(C=C3)C.CO>>C[OH+][K:10].[C-:11]#N.CC1CN(C2C1CCC(C2=O)Br)S(=O)(=O)C3=CC=C(C=C3)C.CO 10,11=11
CC1CC2[CH:10]=[CH:11]C1[CH:20]2[O:21]S(=O)(=O)C3=CC=C(C=C3)C>>CC1CC2[CH:10]3[CH:20]2C1[CH+:11]3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CC1(C(=O)CCC1=O)CC[C:20](C)([N:10]2CCCC2C(=O)[O-])[OH2+:21].C1CC(NC1)C(=O)[O-]>>C[C:20](=[N+:10]1CCCC1C(=O)[O-])CCC2(C(=O)CCC2=O)C.[OH2:21].C1CC(NC1)C(=O)[O-] 10=20;20,21=21
CC[CH:20]=[CH:21][C:22](=[O:23])C1=CC=CC=C1.O[O-:10]>>CC[CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
[H:20][NH2+:21]N.CN1C(=CN2C=CC=C2C1=O)CCC[NH:10]C3(C4=C(C=CC=C4)C(=O)NN3)[O-].O.[Cl-].[K+]>>N[NH2:21].[H:20][NH+:10](CCCC1=CN2C=CC=C2C(=O)N1C)C3(C4=C(C=CC=C4)C(=O)NN3)[O-].O.[Cl-].[K+] 10=20;20,21=21
CCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)CC(C)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CCC1C[CH:20]=[CH:21]C(=O)C1.CC[S-:10]>>CCC1C[CH:20]([CH-:21]C(=O)C1)[S:10]CC 10=20;20,21=21
